US04435569
Production of 2-amino-5-piperidinomethylpyrrolo[2,3-d]pyrimidin-4-one (dihydrochloride)
In 4.5 ml of methanol were dissolved 151 mg of 2-amino-5-aminomethylpyrrolo[2,3-d]pyrimidin-4-one (dihydrochloride) and 138 mg of 1,5-dibromopentane, followed by addition of 2.4 ml of 1 N-sodium hydroxide. The mixture was stirred at room temperature for 4 days. The solvent was then distilled off under pressure and the residue was purified by silica gel column chromatography. The fractions containing the desired compound were pooled and after addition of an excess of hydrogen chloride/ethanol, concentrated to dryness, followed by precipitation with ether to give 45 mg of the desired compound.

reactant | 2-amino-5-aminomethylpyrrolo[2,3-d]pyrimidin-4-one | 151 mg | NC1=NC(C=2C(=N1)N=CC2CN)=O | C7H7N5O
reactant | 1,5-dibromopentane | 138 mg | BrCCCCCBr | C5H10Br2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 4.5 ml | CO | CH4O
product | 2-amino-5-piperidinomethylpyrrolo[2,3-d]pyrimidin-4-one | 45 mg | NC1=NC(C=2C(=N1)N=CC2CN2CCCCC2)=O | C12H15N5O
